US06982348B2
2-(ethyloxy)-N-((1RS,2RS)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide
To a solution of 2-(ethyloxy)-N-(2-(4-fluorophenyl)-2-oxo-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide (400 mg, 0.79 mmol) in methanol (30 ml) was added manganese (II) chloride (198 mg, 1.57 mmol), and the mixture was stirred at room temperature for 30 min. To the reaction solution was added sodium borohydride (30 mg, 0.79 mmol) under ice-cooling, and the mixture was stirred for 1 hr. The reaction solution was poured into 1N hydrochloric acid (30 ml), and extracted with ethyl acetate (50 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1-1:1 and recrystallized from ethyl acetate-hexane to give the title compound (227 mg, 57%).

reactant | 2-(ethyloxy)-N-(2-(4-fluorophenyl)-2-oxo-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide | 0.79 mmol, 400 mg | C(C)OC1=C(C2=CC=CC=C2C=C1)C(=O)NC(C(=O)C1=CC=C(C=C1)F)CC1=CC=C(C=C1)C(F)(F)F | C29H23F4NO3
reactant | sodium borohydride | 0.79 mmol, 30 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
catalyst | manganese (II) chloride | 1.57 mmol, 198 mg | [Cl-].[Mn+2].[Cl-]
product | 2-(ethyloxy)-N-((1RS,2RS)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide | 227 mg, 57% | C(C)OC1=C(C2=CC=CC=C2C=C1)C(=O)NC(C(O)C1=CC=C(C=C1)F)CC1=CC=C(C=C1)C(F)(F)F | C29H25F4NO3
